data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3069,3450,[CH3:9][C:10](=[O:11])[C-:12]([CH3:13])[N+:14]#[N:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([CH3:13])[N:14]=[N:15]1,water,298.15,27.510222005621323,-5.897076167628244
4518,5153,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])=[N:14][C:15]1([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,20.271157502580085,-23.54689618955905
3991,4566,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N:19]([CH3:20])[NH:21]2,water,298.15,20.9642633852897,-3.414751971296243
3690,4211,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]=[CH:10]1,water,298.15,17.458920470738096,-38.44008751606079
594,651,[CH3:14][C-:15]([CH3:16])[N+:17]#[N:18].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1)[C:15]([CH3:14])([CH3:16])[N:17]=[N:18]2,water,298.15,15.74233873912792,-46.78897526139392
3355,3808,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([O+:10]=[CH:11][C:12]#[N:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:14](=[O:15])[O:16][CH3:17])[O:10][CH:11]1[C:12]#[N:13],water,298.15,6.60880369856967,-57.56522257319671
3154,3557,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8]([C:9]#[N:10])=[N+:11]([CH3:12])[C-:13]([CH3:14])[CH3:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([CH3:14])([CH3:15])[N:11]([CH3:12])[C:8]1([CH3:7])[C:9]#[N:10],water,298.15,29.461911438707805,-17.431379886183052
2674,2972,[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28]([C:29](=[O:30])[O:31][CH3:32])=[N+:33]([CH3:34])[C-:35]([CH3:36])[CH3:37]>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:35]([CH3:36])([CH3:37])[N:33]([CH3:34])[C:28]2([C:26]([O:25][CH3:24])=[O:27])[C:29](=[O:30])[O:31][CH3:32],water,298.15,35.5386785114329,-19.37659390981577
2185,2423,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH:24]#[N+:25][CH-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:24]=[N:25][CH:26]2[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,6.325716665401663,-73.16605562411715
2154,2389,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]([C:20](=[O:21])[O:22][CH3:23])=[N:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,17.728541304918497,-28.18229206653685
4535,5175,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[NH:23][CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[NH:23][CH3:24])[O:16][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,5.50100510031946,-44.78856504215886
4490,5123,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,6.449326481180713,-41.982892590592
